US07834021B2
4-Hydroxy-4-phenylcyclohexanone.
To a solution of 1,4-cyclohexanedione (6.72 g, 60 mmol) in THF (100 mL) cooled in an ice bath was added a 1 M solution of phenyl magnesium bromide in THF (20 mL, 20 mmol). The mixture was stirred at room temperature for 3 hours and quenched with an NH4Cl solution. The resulting solution was extracted with EtOAc three times. The combined organic phase was washed with brine, dried over MgSO4 and concentrated. Purification on silica gel eluting with 1:1 EtOAc/hexanes yielded 0.83 g (22%) of the title compound. MS calculated (M+H)+ 190, found 173 (M+H—H2O)+.

reactant | 1,4-cyclohexanedione | 60 mmol, 6.72 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-phenylcyclohexanone | 0.83 g, 22% | OC1(CCC(CC1)=O)C1=CC=CC=C1 | C12H14O2
